Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Lumbar stenosis
 
Major Surgical or Invasive Procedure:
L3-L5 LAMINECTOMIES 

 
History of Present Illness:
___ seen for follow-up of an ED visit on ___ in which
she presented with back pain and RLE numbness and was found to
have severe central stenosis at L3-4. Since that time, the
patient has had ongoing, severe back pain which radiates down 
her
R leg in an L5 radicular distribution. Nothing makes it better
and the pain bothers her both with activity and at rest. She has
quit her job as a ___ due to the pain. She states that
she has had back pain for many years but it has worsened over 
the
past ___ months. She denies any bowel or bladder incontinence or
retention. 

On exam, the patient is ambulatory and able to toe and heel 
walk.
She has poor posture. She has ___ strength in all lower 
extremity
muscle groups. SILT throughout, though subjectively reduced in a
R L5 distribution. SLR positive on the right with radiating pain
in an L5 distribution. Mild pain with bilateral hip ROM. Mild
pain with SI joint palpation. Mild pain with posterior
trochanteric palpation.

 
Past Medical History:
Lumbar stenosis
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Follows commands: [ ]Simple [x]Complex [ ]None

Motor:
TrapDeltoidBicepTricepGrip
Right 5        5              5             5             5
Left         5        5              5             5            
 5

          IPQuadHamATEHLGast
Right  3        3             3            5      5        
5
Left          5        5             5            5      5      
  5

Weakness unchanged in RLE since previous day's exam. Noted to 
improve later in the day with ___.

[-]Clonus ___

Wound: 
          [x]Clean, dry, intact
 
Pertinent Results:
Please see OMR for all lab and imaging results.
 
Brief Hospital Course:
Patient presented to the pre-op area, was evaluated by 
anesthesia and taken to the OR for elective L3-L5 laminectomies 
on ___. Patient tolerated the procedure well. Please refer to 
formal op report in OMR for further surgical/intra-operative 
details. Patient was extubated in the OR and taken to the PACU 
in stable condition. She was subsequently admitted to the 
neurosurgery service for further management. On post operative 
day one, the patient noted improvement in her right lower 
extremity numbness with right lower leg extremity weakness that 
persisted during her visit, possibly secondary to pain. She was 
seen by physical therapy during her admission with 
recommendations for discharge to rehab, however the patient and 
her family very strongly expressed the desire to go home. On 
post operative day four she was noted to be much improved in 
regards to her mobility so ___ recommended she go home with 
services. She was subsequently discharged in stable condition 
with instructions for follow up in place.
 
Medications on Admission:
Gabapentin 300mg TID 
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain 
Take as needed for pain  
2.  Diazepam 2 mg PO Q8H:PRN muscle spasm 
Please use caution with narcotic medications  
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN pain 
Reduce in dosage and frequency as pain decreases  
5.  Senna 17.2 mg PO QHS  
6.  Gabapentin 300 mg PO TID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lumbar stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with sutures. You will need staple 
removal. Please keep your incision dry until suture/staple 
removal.
•Do not apply any lotions or creams to the site. 
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.
 
Followup Instructions:
___